US09340556B2
To a suspension of 1-ethyl-3-(hydroxymethyl)-6,7-bis((4-methoxybenzyl)oxy) cinnolin-4(1H)-one (1.6 g, 3.36 mmol) in dichloromethane (DCM) (50 mL) at room temperature was added Dess-Martin periodinane (1.709 g, 4.03 mmol). The white suspension turned into a dark green solution. The reaction was stirred at room temperature for 1 h, treated with sodium bicarbonate solution and extracted with dichloromethane. The combined organic extracts were washed with brine, dried over sodium sulfate, filtered, and concentrated. The residue was purified by automatic silica gel column chromatography (Combiflash RF), eluting with ethyl acetate/hexanes (0-100%) to afford 1-ethyl-6,7-bis((4-methoxybenzyl)oxy)-4-oxo-1,4-dihydrocinnoline-3-carbaldehyde (0.9 g, 1.897 mmol, 56.5% yield) as a yellow solid. LCMS: (M+H)+: 475.2

reactant | 1-ethyl-3-(hydroxymethyl)-6,7-bis((4-methoxybenzyl)oxy) cinnolin-4(1H)-one | 3.36 mmol, 1.6 g | C(C)N1N=C(C(C2=CC(=C(C=C12)OCC1=CC=C(C=C1)OC)OCC1=CC=C(C=C1)OC)=O)CO | C27H28N2O6
reactant | Dess-Martin periodinane | 4.03 mmol, 1.709 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 1-ethyl-6,7-bis((4-methoxybenzyl)oxy)-4-oxo-1,4-dihydrocinnoline-3-carbaldehyde | 1.897 mmol, 0.9 g, 56.5% yield | C(C)N1N=C(C(C2=CC(=C(C=C12)OCC1=CC=C(C=C1)OC)OCC1=CC=C(C=C1)OC)=O)C=O | C27H26N2O6
